** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment2/assign2c.sch
**.subckt assign2c
XM1 Vout GND VDD VDD sky130_fd_pr__pfet_01v8 L=0.30 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vin1 VDD GND 1.8
Vin Vin GND 1.8
**** begin user architecture code


.control
dc Vin 0 1.8 0.01
plot v(Vout) vs v(Vin)
* Run a single operating point or check the value at Vin = 1.8V
print v(VDD) * abs(i(Vin1))
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
